US07109219B2
N1-Methyl-5-nitro-1H-1-indolecarboxamide
Sodium hydride (60% in oil, 228 mg, 5.7 mmol) was gradually added to a N,N-dimethylformamide (0.5 ml) solution of 5-nitroindole (0.841 g, 5.19 mmol) while stirring at room temperature; phenyl N-methylcarbamate (1.02 g, 6.74 mmol) was added thereto; and the reaction mixture was stirred overnight. The reaction mixture was partitioned between ethyl acetate and water; and the organic layer was washed with water and brine, dried over anhydrous sodium sulfate. This was concentrated under reduced pressure; and the residue was purified by silica gel column chromatography (hexane-ethyl acetate, sequentially ethyl acetate) to yield the title compound (600 mg).

reactant | Sodium hydride | 5.7 mmol, 228 mg | [H-].[Na+]
reactant | 5-nitroindole | 5.19 mmol, 0.841 g | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | phenyl N-methylcarbamate | 6.74 mmol, 1.02 g | CNC(OC1=CC=CC=C1)=O | C8H9NO2
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | N1-Methyl-5-nitro-1H-1-indolecarboxamide | 600 mg | CNC(=O)N1C=CC2=CC(=CC=C12)[N+](=O)[O-] | C10H9N3O3
